US05380837
One part by weight of isoproterenol hydrochloride and 4 parts by weight of dextrin (DE 10) were added with 20 parts by weight of water, and, similarly as in Example A-1 the resultant mixture was subjected to a saccharide-transfer reaction and glucoamylase reaction, purified by gel chromatography, concentrated and pulverized to obtain a white product of α-glucosyl isoproterenol in the yield of about 35% against the weight of the material isoproterenol, d.s.b.

reactant | isoproterenol hydrochloride | CC(C)NCC(C=1C=CC(=C(C1)O)O)O.Cl
solvent | water | O | H2O
product | isoproterenol | yield of about 35% | CC(C)NCC(C=1C=CC(=C(C1)O)O)O | C11H17NO3
